US08633207B2
To 4-chloro-2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-fluoroquinazoline (295 mg, 0.90 mmol) in DMA (2.2 mL) were added tert-butyl 3-amino-5-methyl-1H-pyrazole-1-carboxylate and acetic acid (0.12 mL), and the mixture was heated at 100° C. for 6.5 h. The mixture was allowed to cool to rt and was purified by preparative reverse-phase HPLC using an ammonium acetate modifier. A later eluting fraction was treated with saturated aq NaHCO3 and concentrated under reduced pressure. The aqueous residue was extracted with DCM (3×30 mL) and the combined extracts were washed with saturated aq NaHCO3 (10 mL) and brine (10 mL), dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was treated with DCM, whereupon a precipitate formed, which was collected by filtration to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-fluoro-N-(5-methyl-1H-pyrazol-3-yl)quinazolin-4-amine as a colorless solid (13 mg, 4%). 1H NMR (300 MHz, DMSO-d6) δ 12.23 (br s, 1H), 10.86 (br s, 1H), 8.67 (s, 1H), 8.52 (d, J=9 Hz, 1H), 8.00-8.02 (m, 2H), 7.77 (m, 1H), 7.63 (m, 1H), 5.97 (s, 1H), 2.17 (s, 3H). LCMS (ESI) m/z 389 (M+H)+.

reactant | 4-chloro-2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-fluoroquinazoline | 0.90 mmol, 295 mg | ClC1=NC(=NC2=C(C=CC=C12)F)C(C1=NC=C(C=C1)F)(F)F | C14H6ClF4N3
reactant | tert-butyl 3-amino-5-methyl-1H-pyrazole-1-carboxylate | NC1=NN(C(=C1)C)C(=O)OC(C)(C)C | C9H15N3O2
reactant | acetic acid | 0.12 mL | C(C)(=O)O | C2H4O2
solvent | DMA | 2.2 mL | CC(=O)N(C)C | C4H9NO
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-8-fluoro-N-(5-methyl-1H-pyrazol-3-yl)quinazolin-4-amine | 13 mg, 4% | FC(C1=NC2=C(C=CC=C2C(=N1)NC1=NNC(=C1)C)F)(C1=NC=C(C=C1)F)F | C18H12F4N6
